US07041702B1
Part II: N-(Phenylacetyl)-N′-(4-t-butylphenyl)guanidine, hydrochloride
Synthesis of this compound was achieved by the method set forth in Example 1, Part II above with the use of phenylacetylcyanamide in place of 4-methylbenzoylcyanamide and using 4-t-butylaniline hydrochloride instead of 4-isopropylaniline hydrochloride respectively. Yield 69%; m.p. 182–186° C.; Purity 86% (HPLC); 1H-NMR (CD3OD) δ 1.38 (s, 9H, CH3), 3.84 (s, 2H, CH2), 7.3 (d, 2H, ArH), 7.3–7.45 (m, 5H, ArH), 7.6 (d, 2H, ArH).

reactant | phenylacetylcyanamide | C1(=CC=CC=C1)CC(=O)NC#N | C9H8N2O
reactant | 4-t-butylaniline hydrochloride | Cl.C(C)(C)(C)C1=CC=C(N)C=C1
product | N-(Phenylacetyl)-N′-(4-t-butylphenyl)guanidine, hydrochloride | Yield 69% | Cl.C1(=CC=CC=C1)CC(=O)NC(=N)NC1=CC=C(C=C1)C(C)(C)C | InChI=1S/C19H23N3O.ClH/c1-19(2,3)15-9-11-16(12-10-15)21-18(20)22-17(23)13-14-7-5-4-6-8-14;/h4-12H,13H2,1-3H3,(H3,20,21,22,23);1H
